US05527819
Step B: N-(3-pyridylmethyl)-5-chloro-3-phenylthioindole-2-carboxamide
Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate (0.73 g, 1.6 mmol) was added to a solution of 5-chloro-3-phenylthio-indole-2-carboxylic acid (0.50 g, 1.6 mmol), 3-aminomethylpyridine (0.35 g, 3.2 mmol) and triethylamine (0.50 mL, 3.2 mmol) in degassed dimethylformamide (25 mL). The reaction was stirred at room temperature overnight. The precipitated product was filtered and the filter cake washed well with water. The solid was triturated with 30% ethyl acetate in hexane, filtered and dried at 60° C. in vacuo for 72 h. The title compound was obtained as an off-white solid, mp 240°-241° C. Anal. Calc. for C21H16ClN3OS.0.25 H2O: C, 63.31; H, 4.17; N, 10.54. Found: C, 63.34; H, 4.06; N, 10.71. NMR (DMSO-d6): δ12.54 (1H, s), 8.91 (1H, t, J=6 Hz), 8.51 (1H, s), 8.42 (1H, d, J=5 Hz), 7.58 (2H, m), 7.45 (1H, m), 7.25 (4H, m), 7.15 (1H, t, J=7 Hz), 7.04 (2H, d, J=8 Hz), 4.58 (2H, d, J=6 Hz).

reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorphosphate | 1.6 mmol, 0.73 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 5-chloro-3-phenylthio-indole-2-carboxylic acid | 1.6 mmol, 0.50 g | ClC=1C=C2C(=C(NC2=CC1)C(=S)O)C1=CC=CC=C1 | C15H10ClNOS
reactant | 3-aminomethylpyridine | 3.2 mmol, 0.35 g | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 3.2 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N-(3-pyridylmethyl)-5-chloro-3-phenylthioindole-2-carboxamide | N1=CC(=CC=C1)CNC(=S)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C21H16ClN3S
